US04736038
Dissolved in toluene were 3.5 g (0.02 mole) of 3,4-dichloro-N-methylaniline and a catalytic amount of pyridine, followed by a dropwise addition of 1.9 g (0.022 mole) of diketene at 50° C. After completion of the the dropwise addition, the resultant mixture was heated under reflux for 3 hours. The reaction mixture was cooled, and its organic layer was then washed with water, water, a 10% aqueous solution of hydrochloric acid and a 5% aqueous solution of sodium hydrogencarbonate in order. The thus-washed organic solution was dried and concentrated to obtain 3',4'-dichloro-N-methylacetoacetoanilide.

reactant | 3,4-dichloro-N-methylaniline | 0.02 mole, 3.5 g | ClC=1C=C(NC)C=CC1Cl | C7H7Cl2N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | diketene | 0.022 mole, 1.9 g | C=C1CC(=O)O1 | C4H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3',4'-dichloro-N-methylacetoacetoanilide | ClC=1C=C(N(C(CC(=O)C)=O)C)C=CC1Cl | C11H11Cl2NO2
